US05945382
A solution of 6.85 g (0.0185 mol) of 1-t-butoxycarbonylmethyl-4-chloro-3-(3,5-dichlorophenyl)pyrazole in 100 ml of trifluoroacetic acid is stirred for 16 h at room temperature. The reaction mixture is poured onto 300 cm3 of an ice/water mixture. The insoluble material is recovered by filtration, washed with heptane and dried. We obtained 5.65 g of 1-carboxymethyl-4-chloro-3-(3,5-dichlorophenyl)pyrazole, melting at 182° C.

reactant | 1-t-butoxycarbonylmethyl-4-chloro-3-(3,5-dichlorophenyl)pyrazole | 0.0185 mol, 6.85 g | C(C)(C)(C)OC(=O)CN1N=C(C(=C1)Cl)C1=CC(=CC(=C1)Cl)Cl | C15H15Cl3N2O2
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-carboxymethyl-4-chloro-3-(3,5-dichlorophenyl)pyrazole | 5.65 g | C(=O)(O)CN1N=C(C(=C1)Cl)C1=CC(=CC(=C1)Cl)Cl | C11H7Cl3N2O2
